### PR TITLE
[Merged by Bors] - feat: `a * b ≠ b ↔ a ≠ 1`

### PR DESCRIPTION
**Pull request by YaelDillies**
https://github.com/leanprover-community/mathlib/pull/18635

* [`algebra.group.basic`@`2196ab363eb097c008d4497125e0dde23fb36db2`..`84771a9f5f0bd5e5d6218811556508ddf476dcbd`](https://leanprover-community.github.io/mathlib-port-status/file/algebra/group/basic?range=2196ab363eb097c008d4497125e0dde23fb36db2..84771a9f5f0bd5e5d6218811556508ddf476dcbd)
* [`algebra.order.field.basic`@`44e29dbcff83ba7114a464d592b8c3743987c1e5`..`84771a9f5f0bd5e5d6218811556508ddf476dcbd`](https://leanprover-community.github.io/mathlib-port-status/file/algebra/order/field/basic?range=44e29dbcff83ba7114a464d592b8c3743987c1e5..84771a9f5f0bd5e5d6218811556508ddf476dcbd)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Field/Basic.lean [hunk 1]
```diff
@@ -511,21 +511,22 @@ theorem one_half_pos : (0 : α) < 1 / 2 :=
...
-  by_cases h0 : a = 0
-  · simp [h0]
-  · rw [← Ne.def] at h0
-    exact (half_lt_self (lt_of_le_of_ne ha_nonneg h0.symm)).le
+alias half_le_self_iff ↔ _ half_le_self
+alias half_lt_self_iff ↔ _ half_lt_self
+alias half_lt_self ← div_two_lt_of_pos
 #align half_le_self half_le_self
+#align half_lt_self half_lt_self
+#align div_two_lt_of_pos div_two_lt_of_pos
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Field/Basic.lean:529]: Can you match the mathport output here and put the `#align`s right after the `alias` they correspond to?

Comment (eric-wieser) [reply Mathlib/Algebra/Order/Field/Basic.lean]: Nevermind, I did it

**Comment by eric-wieser** [comment]
bors d+

Thanks!

**Comment by eric-wieser** [comment]
bors merge
